2144-01-13 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever
   24 Hour Events:
   - Failed Femoral Line Placement secondary to positioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2144-1-12**] 10:02 PM
   Ciprofloxacin - [**2144-1-13**] 03:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-13**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.6
C (96
   HR: 63 (57 - 117) bpm
   BP: 83/50(58) {78/42(51) - 139/104(108)} mmHg
   RR: 7 (7 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 87 kg
   Height: 74 Inch
             Total In:
                                                                  5,750 mL
                                                                  2,319 mL
   PO:
             950 mL
   TF:
   IVF:
                                                                  2,650 mL
                                                                  1,369 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                  1,440 mL
   Urine:
                                                                    555 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,645 mL
                                                                    879 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear. Upper Dentures in
   place.
   Neck: supple, unable to assess JVP given body habitus, no LAD
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  minimally distended,  bowel sounds present, no rebound
   tenderness. Patient has intermittent voluntary guarding. No
   organomegaly. Colostomy bag in place. Site looks clean. With small
   amount of brown stool present.
   GU: foley in place
   Ext: warm, 2+ CP pulses. No edema. Bandages over heels.
   ****Will assess back ulceration when dressings are changed.
   Labs / Radiology
   293 K/uL
   7.7 g/dL
   114 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   12 mg/dL
   106 mEq/L
   142 mEq/L
   24.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2144-1-12**]  08:47 PM
                             [**2144-1-13**]  04:26 AM
   WBC
   10.6
   8.5
   Hct
   25.9
   24.2
   Plt
   288
   293
   Cr
   0.8
   0.7
   Glucose
   108
   114
   Other labs: PT / PTT / INR:14.8/27.5/1.3, ALT / AST:[**11-3**], Alk Phos / T
   Bili:119/0.6, Amylase / Lipase:/16, LDH:287 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Micro:
   Urine: Pending
   Blood: Pending
   Suprapubic Catheter Discharge: Culture
   Imaging:
   CT ABD/PELVIS: consolidation RLL likely rounded atelectasis. no acute
   intraabdominal
   findings, including no free fluid or free air. there are bilateral
   decub
   ulcers over the ischial tuberosities, extending to bone. underlying
   bony
   sclerosis suggests osteomyelitis, likely chronic. soft tissue density
   interposed between the right ulcer and the rectum is again noted. no
   definite
   focal fluid collection within this, though complex fluid/phlegmon is
   not
   excluded.
   CXR: Right middle lobe subsegmental atelectasis. No acute process
   identified.
   Assessment and Plan
   44 year old male with history of quadriplegia and recurrent decubitus
   ulcers who presents with fevers in the setting of chronic bilateral
   ischial and heel ulcers.
   # Fever & hypotension: Patient with relative leukocytosis with WBC of
   12 (8.4 on discharge), and hypotension, responsive to fluids. Sources
   of fever include large decubitus and heel ulcers and with secondary
   chronic osteomyelitis. Endocarditis is also a possibility.  Abdominal
   exam is benign, and no obvious source of infection seen on CT. Patient
   also has positive UA, though asymptomatic, with history of colonization
   with ESBL Ecoli. No cough or increasing oxygen requirement currently.
   No indwelling lines or drains. Patient has a long history of chronic
   infection, however given relative hypotension, fever, and leukocytosis,
   would favor antibiotic treatment.  Of note, it is unclear as to the
   degree of hypotension from patient
s baseline. With low blood pressure
   patient without tachycardia and maintains excellent urine output. [**Month (only) 8**]
   be related secondary to drugs.
   -IV fluid boluses to keep MAP>60
   -empiric Vancomycin, Ciprofloxacin and Meropenem given most recent
   sensitivities from ESBL UTI on [**12-24**]
   -f/u Urine culture and blood culture
   -culture if spikes
   -wound care consult for decubitus ulcers
   -f/u surgery recs
   -PICC for access today.
   .
   # +UA - > 50 WBC. Patient likely chronically colonized due to
   suprapubic catheter and neurogenic bladder. However given fever,
   leukocytosis, and hypotension will treat while waiting for UCx.
   -Vanc, Cipro, and Meropenem
   -f/u UCx
   .
   # Abdominal pain: Pt complained of abdominal pain, currently with
   intermittent pain.  Had intermittent abdominal pain on last admission
   also. PPI was restarted for possible PUD/gastritis.  Normal
   LFTS/Lipase.
   -continue PPI
   -bowel regimen
   -consider KUB if pain recurs
   .
   # Chronic pain:
   -continue outpatient regimen of Fentanyl patch 125mcg/hour, Diazepam
   10mg po q6h PRN muscle spasms, Morphine 15-30mg po q4h PRN pain,
   -continue outpatient bowel regimen
   - Will hold MS contin 115mg po q12h for now and provide prn morphine.
   .
   # DM2: Hold metformin.
   -qid fingersticks
   -SSI
   .
   # Microcytic anemia: Baseline HCT 27. Iron studies from last admission
   suggest anemia of chronic disease. He required no transfusions. He was
   continued on iron [**Hospital1 **].
   -continue to monitor
   .
   # FEN: No IVF, replete electrolytes, diabetic diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripheral x1. Will attempt CVL tonight.
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-1-12**] 06:45 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: None
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now